US07871982B2
(i) 4-(N-Pyridin-3-yl)aminophenyl Bromide
A solution of 3-aminopyridine (200 mg, 2.1 mmol) and 304 mg (3.2 mmol) of sodium tert-butoxide were added to 502 mg (2.1 mmol) of 1,4-dibromobenzene, 127 mg (0.21 mmol) of 4,5-bis(diphenylphosphino)-9,9-dimethylsantene, and 97 mg (0.11 mmol) of tris(dibenzylideneacetone)dipalladium in toluene (15 ml), and the mixture was stirred at 100° C. for 3 hr. The reaction solution was diluted with 20 ml of ethyl acetate, and the insolubles were filtered through a chromato-disk. The filtrate was concentrated under the reduced pressure, and the residue was purified by column chromatography on silica gel (n-hexane:ethyl acetate=2:1) to give 312 mg (yield 50%) of a mixture of the title compound with a debromination product thereof (about 3.5:1).

reactant | 3-aminopyridine | 2.1 mmol, 200 mg | NC=1C=NC=CC1 | C5H6N2
reactant | sodium tert-butoxide | 3.2 mmol, 304 mg | CC(C)([O-])C.[Na+]
reactant | 1,4-dibromobenzene | 2.1 mmol, 502 mg | BrC1=CC=C(C=C1)Br | C6H4Br2
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium | 0.11 mmol, 97 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-(N-Pyridin-3-yl)aminophenyl Bromide | N1=CC(=CC=C1)NC1=CC=C(C=C1)Br | C11H9BrN2
